US05041673
2-amino-1,2-dihydro-3(4H)-phenanthrenone, hydrochloride
Under argon to a solution of 2-tertbutoxycarbonylamino-1,2-dihydro-3(4H)-phenanthrenone (74 mg) in anhydrous diethyl ether (5 ml) was added a saturated solution of hydrochloric acid in diethyl ether (5 ml). The mixture was stirred for 6 hours and the formed precipitate was filtered and dried under vacuum to afford the title compound as a white solid (42 mg)

reactant | 2-tertbutoxycarbonylamino-1,2-dihydro-3(4H)-phenanthrenone | 74 mg | C(C)(C)(C)OC(=O)NC1CC=2C=CC3=CC=CC=C3C2CC1=O | C19H21NO3
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 2-amino-1,2-dihydro-3(4H)-phenanthrenone, hydrochloride | 42 mg | Cl.NC1CC=2C=CC3=CC=CC=C3C2CC1=O | InChI=1S/C14H13NO.ClH/c15-13-7-10-6-5-9-3-1-2-4-11(9)12(10)8-14(13)16;/h1-6,13H,7-8,15H2;1H
